US08222245B2
3-[7-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl]propanoic acid hydrochloride
1,1-Dimethylethyl 3-[7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl]propanoate (Preparation 12) (70 mg, 0.139 mmol) was treated with HCl (1045 μl, 4.18 mmol) (4N in dioxan) and warmed at 50° C. for 1.5 hours. A white precipitate started to form. Ether (0.5 ml) was added and the white solid filtered off and washed with ether to give the title compound (57 mg) on drying. δH (400 MHz, d6DMSO) 1.39 (6H, d), 1.91-1.96 (2H, m), 2.82 (2H, m), 3.12-3.21 (4H, m), 3.56 (2H, m), 4.62 (2H, s), 4.96-5.02 (1H, m), 7.57 (1H, d), 7.71 (1H, d), 7.99-8.01 (2H, m), 8.41 (1H, dd), 8.52 (1H, d), 10.3 (1H, v. broad s), 12.8 (1H, v. broad s); MS (ES) C25H26N4O4 requires 446; found 447.0 [M+H]+.

reactant | 1,1-Dimethylethyl 3-[7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl]propanoate | 0.139 mmol, 70 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CCCN(C2)CCC(=O)OC(C)(C)C)C1 | C29H34N4O4
reactant | HCl | 4.18 mmol, 4N, 1045 μl | Cl | ClH
solvent | Ether | 0.5 ml | CCOCC | C4H10O
product | 3-[7-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl]propanoic acid hydrochloride | 57 mg | Cl.C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CCCN(C2)CCC(=O)O)C1 | InChI=1S/C25H26N4O4.ClH/c1-16(2)32-22-8-7-19(13-21(22)14-26)25-27-24(28-33-25)18-5-6-20-15-29(11-9-23(30)31)10-3-4-17(20)12-18;/h5-8,12-13,16H,3-4,9-11,15H2,1-2H3,(H,30,31);1H
